### PR TITLE
[Merged by Bors] - feat: `List.destutter` on cotransitive relations.

### PR DESCRIPTION
**Pull request by Timeroot**
`List.destutter` behaves nicely when the condition is a _cotransitive_ relation, and even better when it's a _coequivalence_ relation. This proves that behavior.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Part of #9052.

### CODE REVIEW

File: Mathlib/Data/List/Destutter.lean [hunk 1]
```diff
@@ -61,6 +63,15 @@ theorem destutter'_singleton : [b].destutter' R a = if R a b then [a, b] else [a
   split_ifs with h <;> simp! [h]
 #align list.destutter'_singleton List.destutter'_singleton
 
+/-- Destutter' always has length at least 1. -/
```
Comment (ericrbg) [inline Mathlib/Data/List/Destutter.lean:66]:
```suggestion
/-- `destutter'` always has length at least 1. -/
```
and similar through the file

File: Mathlib/Data/List/Destutter.lean [hunk 2]
```diff
@@ -61,6 +63,15 @@ theorem destutter'_singleton : [b].destutter' R a = if R a b then [a, b] else [a
...
+theorem destutter'_length_pos : 0 < (destutter' R a l).length := by
```
Comment (ericrbg) [inline Mathlib/Data/List/Destutter.lean:67]:
```suggestion
theorem length_destutter'_pos : 0 < (destutter' R a l).length := by
```

File: Mathlib/Data/List/Destutter.lean [hunk 3]
```diff
@@ -173,4 +184,185 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
   | _ :: l => ⟨fun h => absurd h <| l.destutter'_ne_nil R, fun h => nomatch h⟩
 #align list.destutter_eq_nil List.destutter_eq_nil
 
+/--Destutter of a map is the same as the map of the destutter, as long as the map preserves the
+   relation. -/
```
Comment (ericrbg) [inline Mathlib/Data/List/Destutter.lean:188]:
```suggestion
/-- For a relation-preserving map, `destutter'` commutes with `map`. -/
```

@YaelDillies, should there be a version for `RelHom`?

File: Mathlib/Data/List/Destutter.lean [hunk 4]
```diff
@@ -173,4 +184,185 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+      case neg =>
+        simp only [if_neg hac]
+        exact ih hab
+
+/-- Destuttering ≠, whose negation is a transitive property,
+    gives a list of maximal length over any chain.
+    In other words: (l.destutter R) is an R-chain sublist of l;
+    it is at least as long as any other R-chain sublist.
+
+Proof sketch:
```
Comment (ericrbg) [inline Mathlib/Data/List/Destutter.lean:275]: This is great! I think the docstring is the wrong place for it - I'd sprinkle it in through the proof.

**Review by ericrbg — COMMENTED** [review]
I've added the "proper" depending relation - the bot should now do a little bit of work for you!

A few comments, I think the rest of the docstrings should be edited in similar ways too.

Thanks for all this! Contributing to Mathlib for the first time is hard and long sometimes, but we really appreciate it :)

cc @YaelDillies so you can see where `IsCoequiv` is used

File: Mathlib/Data/List/Destutter.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Destutter.lean:188]: Probably not. We should just state this for injective maps because I doubt we care about any other relation than `≠`.

**Comment by Timeroot** [comment]
Alright, I dropped the "Coequivalence" and "Cotransitive" stuff; now everything uses `compl`. I added an instance for `NEq` to get the right stuff going. Also adding the `destutter_map_inj` for injective maps.

**Comment by Timeroot** [comment]
I removed the dependence on #9081 since it's not using any of that code now.

File: Mathlib/Data/List/Destutter.lean [hunk 5]
```diff
@@ -200,43 +199,49 @@ theorem destutter_map_iff (f : α → β) (h : ∀ a b, R a b ↔ R₂ (f a) (f
       by_cases hr : (R a a2) <;>
         simp [hr, ← destutter_cons', ih]
 
-/-- Destutter' on a relation like ≠, whose negation is an equivalence, gives the same length if
+/-- For a injective function `f`, `destutter' (·≠·)` commutes with `map f`. -/
+theorem destutter_map_inj {f : α → β} (h : Function.Injective f) [DecidableEq α] [DecidableEq β] :
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:203]:
```suggestion
theorem map_destutter_ne {f : α → β} (h : Function.Injective f) [DecidableEq α] [DecidableEq β] :
```
Also feel free to `open Function` at the top to be able to write
```suggestion
theorem map_destutter_ne {f : α → β} (h : Injective f) [DecidableEq α] [DecidableEq β] :
```

File: Mathlib/Data/List/Destutter.lean [hunk 6]
```diff
@@ -200,43 +199,49 @@ theorem destutter_map_iff (f : α → β) (h : ∀ a b, R a b ↔ R₂ (f a) (f
...
+    (l.destutter (·≠·)).map f = (l.map f).destutter (·≠·) :=
+  destutter_map_iff l _ f (fun _ _ ↦ (Function.Injective.ne_iff h).symm)
+
+/-- `destutter'` on a relation like ≠, whose negation is an equivalence, gives the same length if
     the first elements are not related (¬Rα a b). --/
-theorem length_destutter'_eq [IsCoequiv α R] (hab : ¬R a b) :
+theorem length_destutter'_eq [IsEquiv α Rᶜ] (hab : ¬R a b) :
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:209]:
```suggestion
theorem length_destutter' [IsEquiv α Rᶜ] (hab : ¬R a b) :
```

File: Mathlib/Data/List/Destutter.lean [hunk 7]
```diff
@@ -200,43 +199,49 @@ theorem destutter_map_iff (f : α → β) (h : ∀ a b, R a b ↔ R₂ (f a) (f
...
+    case neg =>
+      have hbc : ¬Rᶜ b c := (mt (_root_.trans hab)) hac
+      simp [destutter', if_pos (Classical.not_not.1 hac), if_pos (Classical.not_not.1 hbc)]
 
-/-- Destutter' on a relation like ≠, whose negation is an equivalence, has length
+/-- `destutter'` on a relation like ≠, whose negation is an equivalence, has length
     monotonic under List.cons --/
-theorem length_destutter'_ge_length_destutter'_cons [IsCoequiv α R] :
+theorem length_destutter'_ge_length_destutter'_cons [IsEquiv α Rᶜ] :
     (List.destutter' R a (b::l)).length ≥ (List.destutter' R b l).length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:225]:
```suggestion
theorem le_length_destutter' [IsEquiv α Rᶜ] :
    (List.destutter' R b l).length ≤ (List.destutter' R a (b :: l)).length := by
```

File: Mathlib/Data/List/Destutter.lean [hunk 8]
```diff
@@ -200,43 +199,49 @@ theorem destutter_map_iff (f : α → β) (h : ∀ a b, R a b ↔ R₂ (f a) (f
...
   cases l with
   | nil => by_cases hab : (R a b) <;> simp_all [Nat.le_succ]
   | cons c cs =>
     by_cases hab : (R a b)
     case pos => simp [destutter', if_pos hab, Nat.le_succ]
-    by_cases hac : (R a c)
+    by_cases hac : (Rᶜ a c)
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:231]:
```suggestion
    by_cases hac : R a c
```
and swap the two branches

File: Mathlib/Data/List/Destutter.lean (hunk 7 above)
Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean:225]: Swapped this and similar inequalities

File: Mathlib/Data/List/Destutter.lean (hunk 8 above)
Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean:231]: This actually doesn't easily work. Using the `Rᶜ a c` is a deliberate choice because it helps the typeclass inference realize that we're talking about `Rᶜ` instead of just `R`, and lets it find the relevant `trans Rᶜ`. With `by_cases hac : R a c`, the `neg` branch gets `¬R a c` which doesn't work with the typeclass inference like `Rᶜ a c` does. Of course you can get around this but it adds several lines of noise. (Maybe there's a super-easy transparent way that I'm missing.)

Comment (YaelDillies) [reply Mathlib/Data/List/Destutter.lean:232]: You can always do
```
obtain hac | hac : R a c ∨ Rᶜ a c := em _
```

Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean]: Alrighty, changed this

File: Mathlib/Data/List/Destutter.lean [hunk 9]
```diff
@@ -212,13 +212,13 @@ theorem length_destutter' [IsEquiv α Rᶜ] (hab : ¬R a b) :
...
   | nil => simp
   | cons c cs ih =>
-    by_cases hac : (Rᶜ a c)
-    case pos =>
+    obtain hac | hac : R a c ∨ Rᶜ a c := em _
+    next =>
+      have hbc : ¬Rᶜ b c := mt (_root_.trans hab) (Classical.not_not.2 hac)
+      simp [destutter', if_pos hac, if_pos (Classical.not_not.1 hbc)]
+    next =>
       have hbc : ¬R b c := trans (symm hab) hac
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:220]: Why not just
```suggestion
    · have hbc : ¬Rᶜ b c := mt (_root_.trans hab) (Classical.not_not.2 hac)
      simp [destutter', if_pos hac, if_pos (Classical.not_not.1 hbc)]
    · have hbc : ¬R b c := trans (symm hab) hac
```

Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean]: Done, also dropped an extra couple `Classical.`s

File: Mathlib/Data/List/Basic.lean [hunk 10]
```diff
@@ -4382,6 +4416,13 @@ theorem getD_replicate_default_eq (r n : ℕ) : (replicate r d).getD n d = d :=
   | succ n ih => cases n <;> simp [ih]
 #align list.nthd_replicate_default_eq List.getD_replicate_default_eqₓ -- argument order
 
+@[simp]
+theorem getD_replicate_elem_eq {y} (i n) (h : i < n) :
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean:4420]:
```suggestion
theorem getD_replicate {y i n} (h : i < n) :
```

File: Mathlib/Data/List/Destutter.lean [hunk 11]
```diff
@@ -61,6 +64,15 @@ theorem destutter'_singleton : [b].destutter' R a = if R a b then [a, b] else [a
   split_ifs with h <;> simp! [h]
 #align list.destutter'_singleton List.destutter'_singleton
 
+/-- `destutter'` always has length at least 1. -/
+theorem length_destutter'_pos : 0 < (destutter' R a l).length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:68]:
```suggestion
theorem destutter'_ne_nil : destutter' R a l ≠ [] = by
```
is the more canonical spelling

File: Mathlib/Data/List/Destutter.lean [hunk 12]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
   | _ :: l => ⟨fun h => absurd h <| l.destutter'_ne_nil R, fun h => nomatch h⟩
 #align list.destutter_eq_nil List.destutter_eq_nil
 
+/-- For a relation-preserving map, `destutter'` commutes with `map`. -/
+theorem destutter_map_iff (f : α → β) (h : ∀ a b, R a b ↔ R₂ (f a) (f b)) :
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:189]:
```suggestion
theorem map_destutter (f : α → β) (h : ∀ a b, R a b ↔ R₂ (f a) (f b)) :
```

File: Mathlib/Data/List/Destutter.lean [hunk 13]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+    | cons a2 bs ih => -- l = a :: a2 :: bs
+      repeat rw [map_cons, destutter_cons_cons]
+      simp_rw [← h a a2]
+      by_cases hr : (R a a2) <;>
+        simp [hr, ← destutter_cons', ih]
+
+/-- For a injective function `f`, `destutter' (·≠·)` commutes with `map f`. -/
+theorem map_destutter_ne {f : α → β} (h : Injective f) [DecidableEq α] [DecidableEq β] :
+    (l.destutter (·≠·)).map f = (l.map f).destutter (·≠·) :=
+  destutter_map_iff l _ f (fun _ _ ↦ (Injective.ne_iff h).symm)
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:206]:
```suggestion
  map_destutter l _ f fun _ _ ↦ h.ne_iff.symm
```

File: Mathlib/Data/List/Destutter.lean [hunk 14]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+
+/-- `destutter'` on a relation like ≠, whose negation is an equivalence, gives the same length if
+    the first elements are not related (¬Rα a b). --/
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:209]: Just FYI your `destutter'` won't turn into a link in the docs unless you "fully qualify" the name:
```suggestion
/-- `List.destutter'` on a relation like `≠`, whose negation is an equivalence, gives the same
length if the first elements are not related. -/
```
Also, docstrings end with `-/`, not `--/`. Be careful! Else you'll end up with docstrings with a trailing `-`.

File: Mathlib/Data/List/Destutter.lean [hunk 15]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+theorem length_destutter' [IsEquiv α Rᶜ] (hab : ¬R a b) :
+    (List.destutter' R a l).length = (List.destutter' R b l).length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:211]:
```suggestion
    (destutter' R a l).length = (destutter' R b l).length := by
```
or
```suggestion
    (l.destutter' R a).length = (l.destutter' R b).length := by
```

File: Mathlib/Data/List/Destutter.lean [hunk 16]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+        simp [hr, ← destutter_cons', ih]
+
+/-- For a injective function `f`, `destutter' (·≠·)` commutes with `map f`. -/
+theorem map_destutter_ne {f : α → β} (h : Injective f) [DecidableEq α] [DecidableEq β] :
+    (l.destutter (·≠·)).map f = (l.map f).destutter (·≠·) :=
+  destutter_map_iff l _ f (fun _ _ ↦ (Injective.ne_iff h).symm)
+
+/-- `destutter'` on a relation like ≠, whose negation is an equivalence, gives the same length if
+    the first elements are not related (¬Rα a b). --/
+theorem length_destutter' [IsEquiv α Rᶜ] (hab : ¬R a b) :
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:210]:
```suggestion
theorem length_destutter'_congr [IsEquiv α Rᶜ] (hab : ¬R a b) :
```
sounds more accurate

File: Mathlib/Data/List/Destutter.lean [hunk 17]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+
+/-- `destutter ≠` has length monotonic under List.cons --/
+theorem length_destutter_ne_cons_ge_length_destutter [DecidableEq α]:
+    (l.destutter (·≠·)).length ≤ ((a::l).destutter (·≠·)).length :=
+  length_destutter_cons_ge_length_destutter l (·≠·)
+
+/-- `destutter'` on a relation like ≠ or <, whose negation is transitive, has length monotonic
+    under a ¬R changing of the first element. -/
+theorem length_destutter'_cotrans_ge [i : IsTrans α Rᶜ] (hba : ¬R b a) :
+    (List.destutter' R b l).length ≤ (List.destutter' R a l).length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:254]: Does this used twice not imply ` length_destutter'` straightforwardly?

File: Mathlib/Data/List/Destutter.lean [hunk 18]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+/-- `destutter` on a relation like ≠, whose negation is an equivalence, has length
+    monotonic under List.cons --/
+theorem length_destutter_cons_ge_length_destutter [IsEquiv α Rᶜ] :
+    (l.destutter R).length ≤ ((a::l).destutter R).length := by
+  cases l
+  · simp [destutter]
+  · exact le_length_destutter' _ R
+
+/-- `destutter ≠` has length monotonic under List.cons --/
+theorem length_destutter_ne_cons_ge_length_destutter [DecidableEq α]:
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:247]:
```suggestion
theorem length_destutter_ne_cons_ge_length_destutter [DecidableEq α] :
```

File: Mathlib/Data/List/Destutter.lean [hunk 19]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+    obtain hac | hac : R a c ∨ Rᶜ a c := em _
+    · have hbc : ¬Rᶜ b c := mt (_root_.trans hab) (not_not.2 hac)
+      simp [destutter', if_pos hac, if_pos (not_not.1 hbc)]
+    · have hbc : ¬R b c := trans (symm hab) hac
+      simpa [destutter', if_neg hac, if_neg hbc]
+
+/-- `destutter'` on a relation like ≠, whose negation is an equivalence, has length
+    monotonic under List.cons --/
+theorem le_length_destutter' [IsEquiv α Rᶜ] :
+    (List.destutter' R b l).length ≤ (List.destutter' R a (b :: l)).length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:224]: Can you generalise that to
```suggestion
theorem Suffix.length_destutter'_mono [IsEquiv α Rᶜ] (h : a :: l₁ <:+ b :: l₂) :
    (List.destutter' R a l₁).length ≤ (List.destutter' R b l₂).length := by
```

File: Mathlib/Data/List/Destutter.lean [hunk 20]
```diff
@@ -173,4 +185,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+        simp only [if_neg hac]
+        exact ih hba
+
+/-- `destutter` of relations like `≠`, whose negation is an equivalence relation,
+    gives a list of maximal length over any chain. In other words: `l.destutter R` is an
+    R-chain sublist of l, and is at least as long as any other R-chain sublist.
+-/
+theorem length_destutter_coequiv_maximal_chain_neg_trans [IsEquiv α Rᶜ]
+    (h₁ : l₂ <+ l) (h₂ : l₂.Chain' R) :
+    l₂.length ≤ (l.destutter R).length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Destutter.lean:278]: This is a completely unguessable name. Maybe
```suggestion
theorem Chain.length_le_length_destutter [IsEquiv α Rᶜ] (h₁ : l₂ <+ l) (h₂ : l₂.Chain' R) :
    l₂.length ≤ (l.destutter R).length := by
```

File: Mathlib/Init/Algebra/Classes.lean [hunk 21]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2017 Microsoft Corporation. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Leonardo de Moura
+Authors: Leonardo de Moura, Alex Meiburg
```
Comment (YaelDillies) [inline Mathlib/Init/Algebra/Classes.lean:4]:
```suggestion
Authors: Leonardo de Moura
```

File: Mathlib/Order/Basic.lean [hunk 22]
```diff
@@ -782,6 +782,17 @@ instance IsRefl.compl (r) [IsRefl α r] : IsIrrefl α rᶜ :=
   ⟨fun a ↦ not_not_intro (refl a)⟩
 #align is_refl.compl IsRefl.compl
 
+instance DecidableRel.compl (r : α → α → Prop) [i : DecidableRel r] : DecidableRel rᶜ :=
```
Comment (YaelDillies) [inline Mathlib/Order/Basic.lean:785]: Is this not already inferred?

File: Mathlib/Order/Basic.lean [hunk 23]
```diff
@@ -782,6 +782,17 @@ instance IsRefl.compl (r) [IsRefl α r] : IsIrrefl α rᶜ :=
...
+  fun a b =>
+    Decidable.casesOn (motive := fun _ ↦ _ → Decidable _) (i a b)
+      (fun h _ ↦ isTrue h)
+      (fun h _ ↦ isFalse (not_not_intro h)) rfl
+
+instance NEq.compl : IsEquiv α (·≠·)ᶜ := by
```
Comment (YaelDillies) [inline Mathlib/Order/Basic.lean:791]:
```suggestion
instance Ne.instIsEquiv_compl : IsEquiv α (· ≠ ·)ᶜ := by
```

File: Mathlib/Order/Basic.lean [hunk 24]
```diff
@@ -782,6 +782,17 @@ instance IsRefl.compl (r) [IsRefl α r] : IsIrrefl α rᶜ :=
...
+  have cnot : Notᶜ = id := funext fun _ ↦ propext not_not
+  simp_rw [Pi.compl_def, ne_eq, ← Pi.compl_apply, cnot]
+  exact eq_isEquiv α
```
Comment (YaelDillies) [inline Mathlib/Order/Basic.lean:794]: Something like
```suggestion
  convert eq_isEquiv α; simp
```

File: Mathlib/Data/List/Destutter.lean (hunk 17 above)
Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean:254]: It is, good point. Changed

File: Mathlib/Data/List/Destutter.lean (hunk 19 above)
Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean:224]: I think that's a correct statement as written, but it would probably just be an induction with `le_length_destutter'` as the inductive step. I don't really know anything about `Suffix` and I'm not super motivated to dive into that atm, so I hope it's alright I skip this one.

File: Mathlib/Data/List/Destutter.lean (hunk 20 above)
Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean:278]: Thanks. I have just barely enough intuition to guess names sometimes myself. I recognized this name was unguessable, but had no idea how to name it myself. :)

File: Mathlib/Order/Basic.lean (hunk 22 above)
Comment (Timeroot) [reply Mathlib/Order/Basic.lean:785]: Oh. I guess it is. I was struggling to get things with complements to work, and it seemed like this was necessary ... but I guess it isn't. Will cut it out.

File: Mathlib/Order/Basic.lean (hunk 24 above)
Comment (Timeroot) [reply Mathlib/Order/Basic.lean:794]: Turns out `simp [compl]` works.

File: Mathlib/Data/List/Destutter.lean (hunk 11 above)
Comment (Timeroot) [reply Mathlib/Data/List/Destutter.lean:68]: Alright! So it turns out `destutter'_ne_nil` already exists so I just changed my one usage,
`exact length_destutter'_pos _ _`
into
`List.length_pos_of_ne_nil (destutter'_ne_nil _ _)`

File: Mathlib/Data/List/Destutter.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Destutter.lean:232]: Mind leaving 
```suggestion
/-
TODO: Replace this lemma by the more general version:
theorem Suffix.length_destutter'_mono [IsEquiv α Rᶜ] (h : a :: l₁ <:+ b :: l₂) :
    (List.destutter' R a l₁).length ≤ (List.destutter' R b l₂).length
-/
theorem le_length_destutter' [IsEquiv α Rᶜ] :
    (List.destutter' R b l).length ≤ (List.destutter' R a (b :: l)).length := by
```

**Comment by YaelDillies** [comment]
I don't have time to review this any further but I was globally happy with it during my last review. So whoever takes over reviewing should only look for local issues.

File: Mathlib/Data/List/Basic.lean [hunk 25]
```diff
@@ -4382,6 +4415,13 @@ theorem getD_replicate_default_eq (r n : ℕ) : (replicate r d).getD n d = d :=
   | succ n ih => cases n <;> simp [ih]
 #align list.nthd_replicate_default_eq List.getD_replicate_default_eqₓ -- argument order
 
+@[simp]
+theorem getD_replicate {y i n} (h : i < n) :
+    getD (replicate n x) i y = x := by
+  rw [getD, get?_eq_get, get_replicate]
```
Comment (urkud) [inline Mathlib/Data/List/Basic.lean:4421]: We have `getD_eq_get`

File: Mathlib/Data/List/Destutter.lean [hunk 26]
```diff
@@ -173,4 +176,187 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
...
+    exact length_destutter'_cotrans_ge _ _ (symm hab : Rᶜ b a)
+
+/-- `List.destutter'` on a relation like ≠, whose negation is an equivalence, has length
+    monotonic under List.cons -/
+/-
+TODO: Replace this lemma by the more general version:
+theorem Sublist.length_destutter'_mono [IsEquiv α Rᶜ] (h : a :: l₁ <+ b :: l₂) :
+    (List.destutter' R a l₁).length ≤ (List.destutter' R b l₂).length
+-/
+theorem le_length_destutter' [IsEquiv α Rᶜ] :
```
Comment (urkud) [inline Mathlib/Data/List/Destutter.lean:236]:
```suggestion
theorem le_length_destutter'_cons [IsEquiv α Rᶜ] :
```

File: Mathlib/Data/List/Basic.lean (hunk 25 above)
Comment (Timeroot) [reply Mathlib/Data/List/Basic.lean]: done

**Comment by Timeroot** [comment]
@urkud other stuff this needs?

**Comment by Timeroot** [comment]
@YaelDillies do you know who else could review this? Other PRs are still blocked by it and it's been several months.

**Comment by urkud** [comment]
I'm sorry for the delay. I'm going to merge `master` and fix compile now, then review it tonight or tomorrow.

**Comment by YaelDillies** [comment]
Wow sorry, this completely fell off my radar. I guess I will wait for Yury to merge master, but yes we should get that in!

**Comment by Timeroot** [comment]
Lightly bumping this @urkud :) If you don't have time, I can try to find time to update to master, but it won't be for a bit

**Comment by urkud** [comment]
I'm sorry for the delay. I failed to finish it before traveling, then forgot to come back. I'm going to merge my local changes with @YaelDillies 's fixes today. I cherry-picked a couple of lemmas that are ready to get merged to a new PR.

**Comment by urkud** [comment]
Asked a question about `List.destutter'` on Zulip: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/List.2Edestutter'

**Comment by Timeroot** [comment]
Is this good to merge now?

**Comment by Timeroot** [comment]
Oh, I see the Zulip thread left this unresolved. I guess I'll wait for that then

**Comment by YaelDillies** [comment]
I think you've waited long enough, so I pushed a little golf and LGTM

maintainer merge

File: Mathlib/Data/List/Destutter.lean [hunk 27]
```diff
@@ -148,4 +151,116 @@ theorem destutter_eq_nil : ∀ {l : List α}, destutter R l = [] ↔ l = []
   | [] => Iff.rfl
   | _ :: l => ⟨fun h => absurd h <| l.destutter'_ne_nil R, fun h => nomatch h⟩
 
+variable {R}
+
+/-- For a relation-preserving map, `destutter'` commutes with `map`. -/
```
Comment (kim-em) [inline Mathlib/Data/List/Destutter.lean:156]:
```suggestion
/-- For a relation-preserving map, `destutter'` commutes with `map`. -/
```
Doc-strings need updating to remove the prime.

**Comment by kim-em** [comment]
bors d+

File: Mathlib/Data/List/Destutter.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Destutter.lean:156]: I assume you mean the prime in `destutter'`? Your suggestion above doesn't seem to contain any change 😄

**Comment by kim-em** [comment]
I'm not sure what happened with bors here. Let's try again.

bors merge
